US08039469B2
Step 2: Preparation of 1-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)piperidin-4-one
To an aqueous solution of 8-oxa-3-azabicyclo[3.2.1]octane hydrochloride (66 mL) was added 1-(4,6-dichloro-1,3,5-triazin-2-yl)piperidin-4-one (2.7 g, 11 mmol) as a suspension in acetone (40 mL). To the mixture was added solid sodium carbonate (2.5 g, 24 mmol). The suspension was stirred at 80° C. for two hours and then allowed to cool to room temperature. The title compound was collected by filtration, washed with water, and dried under vacuum; MS (ES+) 324.4 (M+H)+

reactant | 8-oxa-3-azabicyclo[3.2.1]octane hydrochloride | 66 mL | Cl.C12CNCC(CC1)O2
reactant | 1-(4,6-dichloro-1,3,5-triazin-2-yl)piperidin-4-one | 11 mmol, 2.7 g | ClC1=NC(=NC(=N1)Cl)N1CCC(CC1)=O | C8H8Cl2N4O
reactant | sodium carbonate | 24 mmol, 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 1-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)piperidin-4-one | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)Cl)N2CCC(CC2)=O | C14H18ClN5O2
